US07582771B2
4-{3-[2-(2-Acetylamino-ethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]-propyl}-benzoic acid (175 g, 0.310 mol) is added to a stirred solution of methanol (700 mL), water (175 mL) and potassium hydroxide (385 g, 5.83 mol). The mixture is wormed to 86° C. for 16 h-24 h. The reaction is complete when the product/starting material ratio is greater than 99/1 by HPLC. The following addition steps should maintain the reaction mixture at an internal temperature of 60° C.-65° C. Methanol (1500 mL) is added to the reaction mixture. Concentrated HCl (480 mL) is added over a 30 min to the reaction mixture, neutralizing the mixture to a pH of 5 to 7. Precipitation occurs and the reaction mixture becomes lighter. Water (2.5 L) is added over 30 min and stir the reaction mixture for 30 min at 60° C.-65° C. The reaction mixture is cooled to room temperature. The product is collected by filtration and washed with warm water (3×250 mL, 50° C.-60° C.) and cold methanol (250 mL, 0° C.-5° C.). Drying the product in vacuo at 60° C.-70° C. gives 152 g (94%, 95.0% by HPLC) of 4-{2-[2-(2-Amino-ethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]-propyl}-benzoic acid.

reactant | 4-{3-[2-(2-Acetylamino-ethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]-propyl}-benzoic acid | 0.310 mol, 175 g | C(C)(=O)NCCC=1N(C2=CC=C(C=C2C1CCCC1=CC=C(C(=O)O)C=C1)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1 | C35H33ClN2O3
reactant | potassium hydroxide | 5.83 mol, 385 g | [OH-].[K+]
reactant | HCl | 480 mL | Cl | ClH
reactant | Methanol | 1500 mL | CO | CH4O
reactant | methanol | 700 mL | CO | CH4O
solvent | water | 175 mL | O | H2O
product | 4-{2-[2-(2-Amino-ethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]-propyl}-benzoic acid | 152 g | NCCC=1N(C2=CC=C(C=C2C1C(CC1=CC=C(C(=O)O)C=C1)C)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1 | C33H31ClN2O2
